US06002008
6-Amino-4-[(3-cyanophenyl)amino]-3-quinolinecarbonitrile
Added 100 mg of 10% palladium on carbon to a round bottom flask under N2 and covered with 50 ml ethanol. Added 1.00 g (3.17 mmol) 4-[(3-cyanophenyl)amino]-6-nitro-3-quinolinecarbonitrile and 250 μl (7.39 mmol) anhydrous hydrazine and heated to reflux. Removed heat at 2 hours and filtered hot through celite. Stripped solvent and dried in vacuo, giving 887 mg of yellow solid: mass spectrum (electrospray m/e): M+H=286.2.

reactant | 4-[(3-cyanophenyl)amino]-6-nitro-3-quinolinecarbonitrile | 3.17 mmol, 1.00 g | C(#N)C=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)[N+](=O)[O-])C#N | C17H9N5O2
reactant | hydrazine | 7.39 mmol, 250 μl | NN | H4N2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-Amino-4-[(3-cyanophenyl)amino]-3-quinolinecarbonitrile | 887 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)C#N | C17H11N5
